US04824866
Trifluoromethanesulfonamide (14.9g, 0.10 mole), morpholine (8.7g, 0.10 mole) and acetone (100 ml) were stirred together for one hour. The solvent was evaporated in vacuo to give morpholinium trifluoromethanesulfonamide, m.p. 84°-87° C. Analysis: Calculated for C5H11F3N2O3S: %C 25.4; %H, 4.7; %N, 11.8; found: %C, 25.3;D %H, 4.7; %N, 11.7.

reactant | Trifluoromethanesulfonamide | 0.10 mole, 14.9g | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
reactant | morpholine | 0.10 mole, 8.7g | N1CCOCC1 | C4H9NO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | morpholinium trifluoromethanesulfonamide | FC(S(=O)(=O)N)(F)F.[NH2+]1CCOCC1 | InChI=1S/C4H9NO.CH2F3NO2S/c1-3-6-4-2-5-1;2-1(3,4)8(5,6)7/h5H,1-4H2;(H2,5,6,7)/p+1
